US04497807
3-chloro-5-phenylthio-4H-1,2,6-thiadiazin-4-one
A mixture of 3.66 g of 3,5-dichloro-4H-1,2,6-thiadiazin-4-one, 30 ml of ethyl ether, and 2.02 g of triethylamine is stirred at 0°-5° C. while a solution of 2.20 g of thiophenol in 20 ml of ethyl ether is added dropwise to it. This mixture is stirred 2 hours longer while it is allowed to return to ambient temperature. Then it is filtered to remove triethylamine hydrochloride, and the filtrate is concentrated on a rotary evaporator. The solid residue is recrystallized from hexane to yield yellow prisms, mp 100°-2°.

reactant | 3,5-dichloro-4H-1,2,6-thiadiazin-4-one | 3.66 g | ClC1=NSN=C(C1=O)Cl | C3Cl2N2OS
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
reactant | thiophenol | 2.20 g | C1(=CC=CC=C1)S | C6H6S
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | 3-chloro-5-phenylthio-4H-1,2,6-thiadiazin-4-one | ClC1=NSN=C(C1=O)SC1=CC=CC=C1 | C9H5ClN2OS2
